US07528160B2
(5-Methoxy-2-methyl-indol-1-yl)-acetic acid ethyl ester
To a solution of 2-methyl-5-methoxylindole (5.10 g, 31.6 mmol) in DMF (200 mL) is added sodium hydride (60%, 1.9 g, 47.4 mmol) at 0˜5° C., stirred for 30 min, ethyl 2-bromoacetate (8.35 g, 50 mmol) is added. After 2 hr at room temperature, the reaction is quenched by water, extracted with ether. Combined organic layers are washed with water and brine, dried over sodium sulfate. Concentration yields the crude title product, which is used for next step without further purification.

reactant | 2-methyl-5-methoxylindole | 31.6 mmol, 5.10 g | CC=1NC2=CC=C(C=C2C1)OC | C10H11NO
reactant | sodium hydride | 47.4 mmol, 1.9 g | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 50 mmol, 8.35 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (5-Methoxy-2-methyl-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(=CC2=CC(=CC=C12)OC)C)=O | C14H17NO3
